US04973721
100 mg of (22S)-1α,3β-diacetoxy-25-tetrahydropyranyloxy-cholest-5-en-23-yn-22-ol (IIIa1) obtained in Example 1 (1) was dissolved in 1.5 ml of dimethylsulfoxide, and after adding thereto 13.2 mg of powderous potassium hydroxyde and 31 μl of methyl iodide, the mixture was stirred for 3.5 hours at room temperature. The reaction solution was diluted with ethyl acetate, washed with water, dried over sodium sulfate, and concentrated. The residue was subjected to silica gel column chromatgraphy (solvent; n-hexane:ethyl acetate=7:1) for purification to give 92 mg of (22S)-1α,3β-diacetoxy-22-methoxy-25-tetrahydropyranyloxy-cholest-5-en-23-yn (IVb1) (yield: 90%).

reactant | (22S)-1α,3β-diacetoxy-25-tetrahydropyranyloxy-cholest-5-en-23-yn-22-ol | 100 mg | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H]([C@@H](C#CC(C)(C)OC5OCCCC5)O)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C36H54O7
reactant | potassium | 13.2 mg | [K] | K
reactant | methyl iodide | 31 μl | CI | CH3I
solvent | dimethylsulfoxide | 1.5 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (22S)-1α,3β-diacetoxy-22-methoxy-25-tetrahydropyranyloxy-cholest-5-en-23-yn | 92 mg, yield: 90% | C(C)(=O)O[C@H]1C[C@@H](CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H]([C@@H](C#CC(C)(C)OC5OCCCC5)OC)C)[C@]4(CC[C@@H]3[C@@]12C)C)OC(C)=O | C37H56O7
